US06900353B2
Preparation of (2-Hydroxycyclopentyl)[(methylethyl)sulfonyl]amine
Scheme IA, step B: [(Methylethyl)sulfonyl][2-(phenylmethoxy)cyclopentyl]amine (2.00 g, 6.72 mmol), palladium on carbon (250 mg) and ethanol (50 mL) were combined and placed on the power shaker under a hydrogen atmosphere at 60 psi's overnight. In the morning, the solution was filtered over a Celite® mat and the resulting filtrate was concentrated under reduced vacuum to yield 1.50 g as a viscous oil. TLC showed material was very pure and was used without further purification. Yield=Quantitative. Ion spray M.S. 206 (M*−1). Analysis calculated for C8H17NO3S: Theory: C, 46.35; H, 8.26; N, 6.75. Found: C, 46.27; H, 7.97; N, 6.70.

reactant | [(Methylethyl)sulfonyl][2-(phenylmethoxy)cyclopentyl]amine | 6.72 mmol, 2.00 g | CC(C)S(=O)(=O)NC1C(CCC1)OCC1=CC=CC=C1 | C15H23NO3S
catalyst | palladium on carbon | 250 mg | [Pd] | Pd
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | (2-Hydroxycyclopentyl)[(methylethyl)sulfonyl]amine | OC1C(CCC1)NS(=O)(=O)C(C)C | C8H17NO3S
